US07160887B1
A mixture of 4-chloro-2-fluoronitrobenzene (7.0 g, 40 mmols), N-tert-butoxycarbonyl-3-hydroxyphenethylamine (9.5 g, 40 mmols), potassium carbonate (5.5 g, 40 mmols) and N,N-dimethylformamide (100 ml) was stirred at 100° C. for 12 hours. The reaction mixture was cooled, then poured into water, and extracted with ethyl acetate. The extract was washed with water, and then dried with anhydrous magnesium sulfate, and the solvent was evaporated away. The residue was purified through silica gel column chromatography to give an oil of tert-butyl 2-[3-(5-chloro-2-nitrophenoxy)phenyl]ethylcarbamate (15.2 g, 96.6%).

reactant | 4-chloro-2-fluoronitrobenzene | 40 mmols, 7.0 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])F | C6H3ClFNO2
reactant | N-tert-butoxycarbonyl-3-hydroxyphenethylamine | 40 mmols, 9.5 g | C(C)(C)(C)OC(=O)NCCC1=CC(=CC=C1)O | C13H19NO3
reactant | potassium carbonate | 40 mmols, 5.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | tert-butyl 2-[3-(5-chloro-2-nitrophenoxy)phenyl]ethylcarbamate | 15.2 g, 96.6% | ClC=1C=CC(=C(OC=2C=C(C=CC2)CCNC(OC(C)(C)C)=O)C1)[N+](=O)[O-] | C19H21ClN2O5
